US08557821B2
To a solution of 2-{1-[2-(2,5-dimethyl-phenyl)-acetyl]-piperidin-4-yl}-thiazole-4-carboxylic acid ethyl ester (10.46 g, 27.06 mmol) in THF (30 mL) is added aqueous solution of sodium hydroxide (2 M, 20.3 mL) at RT. After stirring 3 h at RT, the reaction mixture is acidified with aqueous solution of HCl (2 M) until pH 2-3, and ethylacetate (30 mL) is added to the reaction mixture, and layers are separated. The aqueous layer is extracted with ethyl acetate (20 mL) and the combined organic layers are washed with brine (10 mL), dried over sodium sulafte, filtered, and evaporated under reduced pressure to give 2-{1-[2-(2,5-dimethyl-phenyl)-acetyl]-piperidin-4-yl}-thiazole-4-carboxylic acid (5.9 g, 60.8%), which can be used in the next step without further purification. 1H-NMR (400 MHz, d6-DMSO): δ=1.55-1.65 (m, 2H), 2.01-2.12 (m, 2H), 2.15 (s, 3H), 2.22 (s, 3H), 2.77-2.86 (m, 1H), 3.18-3.29 (m, 1H), 3.65 (d, 2H), 3.98-4.07 (m, 1H), 4.45-4.53 (m, 1H), 6.90 (s, 1H), 6.92 (s, 1H), 6.93 (s, 1H), 7.04 (d, 1H), 8.49 (br, 1H), 12.95 (s, 1H). MS: m/z=359 (M+1).

reactant | 2-{1-[2-(2,5-dimethyl-phenyl)-acetyl]-piperidin-4-yl}-thiazole-4-carboxylic acid ethyl ester | 27.06 mmol, 10.46 g | C(C)OC(=O)C=1N=C(SC1)C1CCN(CC1)C(CC1=C(C=CC(=C1)C)C)=O | C21H26N2O3S
reactant | sodium hydroxide | 2 M, 20.3 mL | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
reactant | ethylacetate | 30 mL | C(C)OC(C)=O | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-{1-[2-(2,5-dimethyl-phenyl)-acetyl]-piperidin-4-yl}-thiazole-4-carboxylic acid | 5.9 g, 60.8% | CC1=C(C=C(C=C1)C)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)O | C19H22N2O3S
